US07449473B2
To a solution of Ethyl-4-pyrazole-carboxylate (14.0 g, 100 mmol) in Acetone (200 ml) was added potassium carbonate (27.6 g, 200 mmol) and Benzyl Bromide (12 ml, 100 mmol). The mixture was heated to 60° C. and stirred for 14 hours. The reaction mixture was cooled and filtered to remove any solids. The filtrate was concentrated and the residue was purified using column chromatography (3:1 Hexanes:Ethyl Acetate) to yield ethyl 1-benzylpyrazole-4-carboxylate (19.0 g, HNMR)

reactant | Ethyl-4-pyrazole-carboxylate | 100 mmol, 14.0 g | C(C)C1=NNC=C1C(=O)[O-]
reactant | potassium carbonate | 200 mmol, 27.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | Benzyl Bromide | 100 mmol, 12 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | Acetone | 200 ml | CC(=O)C | C3H6O
product | ethyl 1-benzylpyrazole-4-carboxylate | 19.0 g | C(C1=CC=CC=C1)N1N=CC(=C1)C(=O)OCC | C13H14N2O2
